US07985755B2
Step 4: 5-[4-(3-Chlorobenzyl)cyclohexylmethoxy]quinazoline-2,4-diamine (Method F)
2-[4-(3-Chlorobenzyl)cyclohexylmethoxy]-6-fluorobenzonitrile (150 mg; 0.42 mmol) was heated to 135° C. in the presence of guanidine carbonate (76 mg; 0.42 mmol) in 1.5 mLs of dimethylacetamide. After 6 hours, mixture was cooled to room temperature and 2 mLs of water added. After 30 minutes solids were collected by filtration. Solids were purified by trituration using a 3:1 mixture of ethyl alcohol and water. Solids collected by filtration to give title compound as a white solid. (128 mgs; 76% yield).

reactant | 2-[4-(3-Chlorobenzyl)cyclohexylmethoxy]-6-fluorobenzonitrile | 0.42 mmol, 150 mg | ClC=1C=C(CC2CCC(CC2)COC2=C(C#N)C(=CC=C2)F)C=CC1 | C21H21ClFNO
reactant | guanidine carbonate | 0.42 mmol, 76 mg | C(O)(O)=O.NC(=N)N
reactant | water | 2 mLs | O | H2O
solvent | dimethylacetamide | 1.5 mLs | CC(=O)N(C)C | C4H9NO
product | 5-[4-(3-Chlorobenzyl)cyclohexylmethoxy]quinazoline-2,4-diamine | 76% yield | ClC=1C=C(CC2CCC(CC2)COC2=C3C(=NC(=NC3=CC=C2)N)N)C=CC1 | C22H25ClN4O
